US05019578
(R)-α-[[(1-Methylcyclobutyl)amino]methyl]tetrazolo[1,5-a] pyridine-6-methanol
A solution of 375 mg (2.31 mmol) of (R)-2-(tetrazolo [1,5-a]pyrid-6-yl)oxirane and 972 mg (11.42 mmol) of (1-methylcyclobutyl)amine [J. Am. Chem. Soc., 83, 2723 (1961)] in 0.9 ml of absolute ethanol was heated at 70° C. for 3 hours with stirring under nitrogen. The reaction mixture was then concentrated to dryness (wt. 547 mg) and the residue purified by preparative Tlc on silica gel (95:5:1 methylene chloride:methanol:conc. ammonium hydroxide) to give 402 mg of product.

reactant | (R)-2-(tetrazolo [1,5-a]pyrid-6-yl)oxirane | 2.31 mmol, 375 mg | N=1N=NN2C1C=CC(=C2)[C@H]2OC2 | C7H6N4O
reactant | (1-methylcyclobutyl)amine | 11.42 mmol, 972 mg | CC1(CCC1)N | C5H11N
solvent | ethanol | 0.9 ml | C(C)O | C2H6O
product | (R)-α-[[(1-Methylcyclobutyl)amino]methyl]tetrazolo[1,5-a] pyridine-6-methanol | 402 mg | CC1(CCC1)NC[C@H](O)C=1C=CC=2N(C1)N=NN2 | C12H17N5O
